US08735387B2
2-(3-Fluoro-phenyl)-7-propoxy-5-(4-trifluoromethyl-benzyl)-oxazolo[5,4-d]pyrimidine
146.5 mg of 5-bromomethyl-2-(3-fluoro-phenyl)-7-propoxy-oxazolo[5,4-d]pyrimidine and 114 mg of 4-trifluoromethyl-benzeneboronic acid were dissolved in 3 ml of toluene. 170 mg of tripotassium phosphate and 11.2 mg of tricyclohexylphosphine were added, and argon was bubbled through the mixture for 10 min. Then 4.5 mg of palladium(II) acetate were added, and the reaction mixture was heated to reflux for 8 h under argon. After cooling, ethyl acetate and water were added. The mixture was filtered through a ChemElut cartridge and the cartridge washed with ethyl acetate. The combined filtrates were evaporated in vacuo and the residue purified by preparative HPLC (method HPLC2). 23 mg of the title compound were obtained.

reactant | 5-bromomethyl-2-(3-fluoro-phenyl)-7-propoxy-oxazolo[5,4-d]pyrimidine | 146.5 mg | BrCC=1N=C(C2=C(N1)OC(=N2)C2=CC(=CC=C2)F)OCCC | C15H13BrFN3O2
reactant | 4-trifluoromethyl-benzeneboronic acid | 114 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | tripotassium phosphate | 170 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 11.2 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Fluoro-phenyl)-7-propoxy-5-(4-trifluoromethyl-benzyl)-oxazolo[5,4-d]pyrimidine | 23 mg | FC=1C=C(C=CC1)C=1OC=2N=C(N=C(C2N1)OCCC)CC1=CC=C(C=C1)C(F)(F)F | C22H17F4N3O2
